US07262185B2
2-methyl-4-nitrobenzenethiol (3.0 g) was dissolved in THF (60 ml), and to this solution was added aqueous solution of sodium hydroxide (2.1 g, 15 ml) and then, 2-(chloromethyl)pyridine hydrochloride (3.5 g), and the mixture was stirred for 30 minutes. The solvent was removed under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 2-[[(2-methyl-4-nitrophenyl)sulfanyl]methyl]pyridine (3.4 g).

reactant | 2-methyl-4-nitrobenzenethiol | 3.0 g | CC1=C(C=CC(=C1)[N+](=O)[O-])S | C7H7NO2S
reactant | sodium hydroxide | 15 ml, 2.1 g | [OH-].[Na+]
reactant | 2-(chloromethyl)pyridine hydrochloride | 3.5 g | Cl.ClCC1=NC=CC=C1
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-[[(2-methyl-4-nitrophenyl)sulfanyl]methyl]pyridine | 3.4 g | CC1=C(C=CC(=C1)[N+](=O)[O-])SCC1=NC=CC=C1 | C13H12N2O2S
